US07514452B2
Bromine (0.18 ml) was added to a dichloromethane (10 ml) solution of methyl 3,4-diphenyl-2-furancarboxylate (1.00 g) at 0° C., and stirred at this temperature for 4 hours. The reaction solution was diluted with chloroform, and successively washed with water, saturated aqueous sodium hydrogencarbonate solution, and saturated brine. The organic layer was dried over MgSO4, and the solvent was evaporated under reduced pressure, thereby giving 1.28 g of methyl 5-bromo-3,4-diphenyl-2-furancarboxylate.

reactant | Bromine | 0.18 ml | BrBr | Br2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | methyl 3,4-diphenyl-2-furancarboxylate | 1.00 g | C1(=CC=CC=C1)C1=C(OC=C1C1=CC=CC=C1)C(=O)OC | C18H14O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-bromo-3,4-diphenyl-2-furancarboxylate | 1.28 g | BrC1=C(C(=C(O1)C(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C18H13BrO3
